US20010012857A1
2.132 g (10.1 mmol) 3,3-diphenylpropylamine (Aldrich, Milwaukee, Wis.) was added to a mixture of 0.853 g (5.11 mmol) ethyl bromoacetate (Aldrich) and 2.7 g (19.57 mmol) potassium carbonate in 14 ml acetonitrile at rom temperature. The mixture was stirred under argon for 18 hours. The reaction mixture was filtered, the solvent evaporated and the residue chromatographed on a silica gel column with 40% ethyl acetate in hexanes to give 1.05 g (yield 69%) N-[(3,3-diphenyl)propyl] glycine ethyl ester (Compound A22) as an oil. NMR spectra of the product showed: 1H NMR (CDCl3, 300 MHz) 7.40-7.10 (m, 10 H), 4.14 (q, 2 H), 4.03 (t, 1 H), 3.33 (s, 2 H), 2.56 (t, 2 H), 2.24 (dt, 2 H), 1.22 (t, 3 H); 13C NMR (CDCl3, 75 MHz) 172.44, 144.66, 128.43, 127.75, 126.15, 60.63, 50.93, 48.80, 47.92, 35.85, 14.17, 0.019 g of A28 was also isolated from the silica gel column.

reactant | 3,3-diphenylpropylamine | 10.1 mmol, 2.132 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | ethyl bromoacetate | 5.11 mmol, 0.853 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 19.57 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
product | N-[(3,3-diphenyl)propyl] glycine ethyl ester | 1.05 g, yield 69% | C(C)OC(CNCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H23NO2
